US04470989
1.5 2-Hydroxymethyl-1,4-benzodioxane
0.5 mole of pyrocatechol were stirred vigorously with 1.5 moles of epichlorohydrin and 1 mole of 10% strength aqueous potassium hydroxide solution at 100° C. After the mixture had been cooled, it was extracted with ether, the ether extract was washed with dilute potassium hydroxide solution and water, dried and evaporated and the product was recrystallized from ethanol. Melting point: 87°-90° C.

reactant | pyrocatechol | 0.5 mole | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | epichlorohydrin | 1.5 moles | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
product | 2-Hydroxymethyl-1,4-benzodioxane | OCC1COC2=C(O1)C=CC=C2 | C9H10O3
